US07601844B2
To a solution of (R)-2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylbutan-1-one hydrochloride (340 mg, 1.03 mmol) in DCM (10 mL) cooled to 0° C. was added TEA (144 μL, 1.03 mmol) followed by chloroacetylchloride (82 μL, 1.03 mmol). Upon completion of addition, the reaction mixture was held at 0° C. for 4 h. After this time, an additional aliquot of chloroacetyl chloride (60 μL) was added followed by additional TEA (150 μL). The resulting solution was diluted with dichloromethane (40 mL) and quenched by the addition of aqueous NaHCO3 (25 mL). The layers were separated. The organic layer was dried over Na2SO4, filtered, and concentrated to yield a residue. The residue was purified via SiO2 chromatography (20% to 50% EtOac/heptane) to give (R)-2-chloro-N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)acetamide as a clear glassy solid (349 mg, 92% yield). MS found: 371.3 (M+), 373.3 (M+2).

reactant | (R)-2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylbutan-1-one hydrochloride | 1.03 mmol, 340 mg | Cl.N[C@@H](C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(C)C
reactant | chloroacetylchloride | 1.03 mmol, 82 μL | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroacetyl chloride | 60 μL | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (R)-2-chloro-N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)acetamide | 349 mg, 92% yield | ClCC(=O)N[C@@H](C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(C)C | C18H24Cl2N2O2
